US07939533B2
(2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-hydroxymethyl-phenyl)-6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 24 mg (0.637 mmol) sodium borohydride in 1 ml methanol were added 100 mg (0.159 mmol) (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-formyl-phenyl)-6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide at room temperature. After stirring for 1 h the reaction mixture was concentrated in vacuo and partitioned between ethyl acetate and saturated sodium carbonate solution. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography to give 78 mg (78%) of the title compound as a white foam.

reactant | sodium borohydride | 0.637 mmol, 24 mg | [BH4-].[Na+]
reactant | (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-formyl-phenyl)-6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.159 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C=O)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C30H28F7N3O4
solvent | methanol | 1 ml | CO | CH4O
product | (2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-hydroxymethyl-phenyl)-6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 78 mg, 78% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)CO)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C30H30F7N3O4
